US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)thiazole-4-carboxamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide and thiazole-4-carboxylic acid using method D. NMR; δH [2H6]—DMSO 10.35, (1H, s), 9.26,(1H, d), 8.62,(1H, t), 8.47,(1H, d), 7.92,(2H, d), 7.78-7.76,(2H, m), 7.44,(2H, d), 7.28,(1H, d), 3.16,(2H, t), 2.20,(3H, s), 1.04,(1H, m), 0.44,(2H, m), 0.24,(2H, m). LCMS: retention time 3.25 min, MH+392.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | thiazole-4-carboxylic acid | S1C=NC(=C1)C(=O)O | C4H3NO2S
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)thiazole-4-carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C=1N=CSC1 | C22H21N3O2S
